US06852731B2
2-{[{2-[3-(acetylamino)phenyl]-2-hydroxyethyl}(methyl)amino]methyl}-N-(4-chlorobenzyl)-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide
A mixture of N-(4-chlorobenzyl)-2-(chloromethyl)-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide (100 mg, 0.25 mmol), N-{3-[1-hydroxy-2-(methylamino)ethyl]phenyl}acetamide (Preparation 45) (79 mg, 0.38 mmol) and diisopropylethylamine (67 μL, 0.38 mmol) in dry DMF (5 mL) was heated to 60° C., becoming a solution. The reaction was stirred for 6 hours at that temperature. After cooling to room temperature, the solution was concentrated under high vacuum. The oil residue was purified with a silica gel chromatotron plate to give the title compound (62 mg) as a white solid.

reactant | N-(4-chlorobenzyl)-2-(chloromethyl)-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide | 0.25 mmol, 100 mg | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)C)C(=C(S3)CCl)C)=O)C=C1 | C18H16Cl2N2O2S
reactant | N-{3-[1-hydroxy-2-(methylamino)ethyl]phenyl}acetamide | 0.38 mmol, 79 mg | OC(CNC)C=1C=C(C=CC1)NC(C)=O | C11H16N2O2
reactant | diisopropylethylamine | 0.38 mmol, 67 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-{[{2-[3-(acetylamino)phenyl]-2-hydroxyethyl}(methyl)amino]methyl}-N-(4-chlorobenzyl)-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide | 62 mg | C(C)(=O)NC=1C=C(C=CC1)C(CN(C)CC1=C(C=2N(C=C(C(C2S1)=O)C(=O)NCC1=CC=C(C=C1)Cl)C)C)O | C29H31ClN4O4S
